US08703784B2
CH3CN (2.55 mL, 48.8 mmol. 2.2 eq) was added dropwise to a solution of nBuLi (48.8 mmol) in 180 mL of THF at −78° C. After stirring for 1 h at −78° C., a solution of ethyl 4-methylenecyclohexanecarboxylate (3.73 g, 22.2 mmol) in 20 mL of THF was added dropwise and the resulting reaction mixture (turned into nearly clear solution after addition) was stirred at −78° C. for 1 h, then slowly warmed to 0° C. before being quenched with sat. NH4Cl. THF was removed and the residue was diluted with EtOAc. The organic layer was separated and washed with brine, dried over Na2SO4, and concentrated. The crude product was purified by a SiO2 column (0-30% EtOAc/Hexanes, Rf=0.2 in 20% EtOAc) to afford 3-(4-methylenecyclohexyl)-3-oxopropanenitrile as a colorless oil (3.25 g, 90%).

reactant | CH3CN | 48.8 mmol, 2.55 mL, 2.2 eq | CC#N | C2H3N
reactant | nBuLi | 48.8 mmol | [Li]CCCC
reactant | ethyl 4-methylenecyclohexanecarboxylate | 22.2 mmol, 3.73 g | C=C1CCC(CC1)C(=O)OCC | C10H16O2
solvent | THF | 180 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(4-methylenecyclohexyl)-3-oxopropanenitrile | 3.25 g, 90% | C=C1CCC(CC1)C(CC#N)=O | C10H13NO
